US05624939
A The reaction is carried out in a way similar to that described in Example 1 A, but starting from 1.65 g of tert-butyl (2S,5R)-1-{2-[3-(3-(benzyloxycarbonyl)phenyl)ureido]acetyl}-5-isobutylpyrrolidine-2-carboxylate and 0.25 g of 10% palladium-on-charcoal in 50 cm3 of ethanol. After treatment, there is obtained 0.57 g of (2S,5R)-3-3-2-(2-tert-butoxycarbonyl-5-isobutyl-1-pyrrolidinyl)-2-oxoethyl]ureido}benzoic acid, the optical rotation of which is [α]D20 =-36.8° (c=1.0; methanol).

reactant | tert-butyl (2S,5R)-1-{2-[3-(3-(benzyloxycarbonyl)phenyl)ureido]acetyl}-5-isobutylpyrrolidine-2-carboxylate | 1.65 g | C(C1=CC=CC=C1)OC(=O)C=1C=C(C=CC1)NC(NCC(=O)N1[C@@H](CC[C@@H]1CC(C)C)C(=O)OC(C)(C)C)=O | C30H39N3O6
solvent | ethanol | 50 cm3 | C(C)O | C2H6O
catalyst | palladium-on-charcoal | 0.25 g | [Pd] | Pd
product | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
